US08445510B2
2-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-1-methyl-1H-imidazole
A mixture of trans-4-(1-Methyl-1H-imidazol-2-yl)cyclohexanol (0.106 g, 0.588 mmol), tert-Butyldimethylsilyl chloride (0.177 g, 1.18 mmol), 4-Dimethylaminopyridine (10 mg, 0.1 mmol), 1H-Imidazole (120 mg, 1.76 mmol) and DCM (3.0 mL, 47 mmol) was stirred at ambient temperature for 1.5 h. The reaction mixture was diluted with DCM to ≈60 mL, washed with sat. NaHCO3 solution, water, and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel [Isco Combiflash, 2.5 g loading column/12 g column, eluting with DCM→4.9% MeOH in DCM]. Fractions containing the title compound were combined and dried in vacuo overnight, giving the title compound as yellow oil. 1H NMR (CDCl3, 400 MHz): δ=6.97 (brs, 1H), 6.78 (s, 1H), 3.69 (tt, J=10.6, 4.0 Hz, 1H), 3.61 (s, 3H), 2.60 (tt, J=11.8, 3.2 Hz, 1H), 2.04-1.96 (m, 2H), 1.95-1.87 (m, 2H), 1.87-1.72 (brm, 2H), 1.47-1.36 (m, 2H), 0.89 (s, 9H), 0.07 (s, 6H). MS (ES+): m/z=295.24 (100) [MH+]. HPLC: tR=3.20 min (verypolar—5 min, ZQ3). UV: λmax=216 nm.

reactant | trans-4-(1-Methyl-1H-imidazol-2-yl)cyclohexanol | 0.588 mmol, 0.106 g | CN1C(=NC=C1)[C@@H]1CC[C@H](CC1)O | C10H16N2O
reactant | tert-Butyldimethylsilyl chloride | 1.18 mmol, 0.177 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1H-Imidazole | 1.76 mmol, 120 mg | N1C=NC=C1 | C3H4N2
catalyst | 4-Dimethylaminopyridine | 0.1 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 47 mmol, 3.0 mL | C(Cl)Cl | CH2Cl2
product | 2-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-1-methyl-1H-imidazole | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)C=1N(C=CN1)C | C16H30N2OSi
